US09403798B2
4-[4-(4-Bromo-1H-pyrazol-1-yl)piperidin-1-yl]-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution (1.0 mL) of 1-(6-methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperidin-4-yl methanesulfonate (45.2 mg, 0.100 mmol) synthesized in Reference Synthesis Example 349, 4-bromo-1H-pyrazole (29.4 mg, 0.200 mmol) and potassium carbonate (27.6 mg, 0.200 mmol) were added and the resultant mixture was stirred at 100° C. for 1 hour. After the completion of the reaction, to the reaction solution, water was added and extraction with ethyl acetate from the reaction solution was performed. The organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (24.4 mg, yield: 48%).

reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | 1-(6-methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperidin-4-yl methanesulfonate | 0.100 mmol, 45.2 mg | CS(=O)(=O)OC1CCN(CC1)C=1N=C(N(C(N1)=O)CC=1SC(=CC1)C(F)(F)F)C | C16H19F3N4O4S2
reactant | 4-bromo-1H-pyrazole | 0.200 mmol, 29.4 mg | BrC=1C=NNC1 | C3H3BrN2
reactant | potassium carbonate | 0.200 mmol, 27.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 4-[4-(4-Bromo-1H-pyrazol-1-yl)piperidin-1-yl]-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 24.4 mg, yield: 48% | BrC=1C=NN(C1)C1CCN(CC1)C1=NC(N(C(=N1)C)CC=1SC(=CC1)C(F)(F)F)=O | C18H18BrF3N6OS
